### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): define affine `n`-space

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 1]
```diff
@@ -0,0 +1,364 @@
...
+
+open CategoryTheory Limits MvPolynomial
+
+noncomputable section
+
+namespace AlgebraicGeometry
+
+universe u
+
+variable (n : Type) (S : Scheme.{u})
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:31]: The PR looks good to me. However, would there be any significant issue if this started as follows:
```suggestion
variable (n : Type u) (S : Scheme.{max u v})
```

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean]: Seems like it just works. Thanks!

**Comment by erdOne** [comment]
I'm not sure why the "Post PR summary comment" CI job is failing but the build itself passes.

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 2]
```diff
@@ -0,0 +1,362 @@
...
+
+universe v u
+
+variable (n : Type v) (S : Scheme.{max u v})
+
+local notation3 "ℤ[" n "]" => CommRingCat.of (MvPolynomial n (ULift ℤ))
+local notation3 "ℤ[" n "].{" u "}" => CommRingCat.of (MvPolynomial n (ULift.{u} ℤ))
+
+/-- `𝔸(n; S)` is the affine `n`-space over `S`. -/
+def AffineSpace (n : Type v) (S : Scheme.{max u v}) : Scheme.{max u v} :=
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:38]: `n` and `S` are already in scope, aren't they? (But maybe this is better for readability)

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 3]
```diff
@@ -0,0 +1,362 @@
...
+namespace AlgebraicGeometry
+
+universe v u
+
+variable (n : Type v) (S : Scheme.{max u v})
+
+local notation3 "ℤ[" n "]" => CommRingCat.of (MvPolynomial n (ULift ℤ))
+local notation3 "ℤ[" n "].{" u "}" => CommRingCat.of (MvPolynomial n (ULift.{u} ℤ))
+
+/-- `𝔸(n; S)` is the affine `n`-space over `S`. -/
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:37]: Can you maybe add a comment explaining that `n` here is not a natural number?

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 4]
```diff
@@ -0,0 +1,362 @@
...
+def AffineSpace (n : Type v) (S : Scheme.{max u v}) : Scheme.{max u v} :=
+  pullback (terminal.from S) (terminal.from (Spec ℤ[n]))
+
+namespace AffineSpace
+
+/-- `𝔸(n; S)` is the affine `n`-space over `S`. -/
+scoped [AlgebraicGeometry] notation "𝔸("n"; "S")" => AffineSpace n S
+
+variable {n} in
+lemma of_mvPolynomial_int_ext {R} {f g : ℤ[n] ⟶ R} (h : ∀ i, f (.X i) = g (.X i)) : f = g := by
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:47]: Can this be moved to a file about mv polynomials?

Comment (riccardobrasca) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean:47]: Mmm, maybe not because it is about the category. Not very important.

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 5]
```diff
@@ -0,0 +1,362 @@
...
+@[simps (config := .lemmasOnly)]
+instance over : 𝔸(n; S).CanonicallyOver S where
+  hom := pullback.fst _ _
+
+/-- The map from the affine `n`-space over `S` to the integral model `Spec ℤ[n]`. -/
+def toSpecMvPoly : 𝔸(n; S) ⟶ Spec ℤ[n] := pullback.snd _ _
+
+variable {X : Scheme.{max u v}}
+
+/-- Morphisms into `Spec ℤ[n]` are equivalent the choice of `n` global sections. -/
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:67]: Can you add a "see `homOverEquiv` for blah blah" to the comment?

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 6]
```diff
@@ -0,0 +1,362 @@
...
+  congr 1
+  rw [Iso.inv_comp_eq]
+  ext
+  exact map_C _ _
+
+section functorial
+
+variable (n) in
+/-- `𝔸(n; S)` is functorial wrt `S`. -/
+def map {S T : Scheme.{max u v}} (f : S ⟶ T) : 𝔸(n; S) ⟶ 𝔸(n; T) :=
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:278]: Do you think it is reasonable to have it as a functor?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors dè

**Comment by riccardobrasca** [comment]
Ops

bors d+

File: Mathlib/AlgebraicGeometry/AffineSpace.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean:39]: I think it's nice have arguments of defs be explicitly written out.

File: Mathlib/AlgebraicGeometry/AffineSpace.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean:48]: Yeah this is quite specific about `CommRingCat.of (MvPolynomial n (ULift.{u} ℤ))` and I doubt it will be used elsewhere.

File: Mathlib/AlgebraicGeometry/AffineSpace.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean:282]: Added.

**Comment by erdOne** [comment]
Thanks for the review!
bors merge
